US03956494
2-(Methoxymethyl)pyridine (4.4 g., 0.036 mole), dissolved in 25 ml. of dry benzene, is added dropwise to 20 ml. of 2M phenyl lithium (0.04 mole) in benzene/ether with cooling. The mixture is stirred for 30 minutes, then methyl isothiocyanate (2.6 g., 0.03 mole), dissolved in 40 ml. of dry benzene, is added dropwise with cooling. The resulting solution is stirred overnight. An equal volume of water is added and the solution is cooled and made acidic with 10% hydrochloric acid. The phases are separated, the organic phase is washed with water and the combined aqueous phases are made basic to about pH 9 then extracted with chloroform. The chloroform extracts are washed with water and dried over magnesium sulfate. Filtration and removal of solvent gives a residue which is recrystallized from isopropyl ether/ethanol to give 2-methoxy-N-methyl-2-(2-pyridyl)thioacetamide, m.p. 104°-105°C.

reactant | 2-(Methoxymethyl)pyridine | 0.036 mole, 4.4 g | COCC1=NC=CC=C1 | C7H9NO
reactant | phenyl lithium | 0.04 mole, 2M | C1(=CC=CC=C1)[Li]
reactant | methyl isothiocyanate | 0.03 mole, 2.6 g | CN=C=S | C2H3NS
reactant | hydrochloric acid | Cl | ClH
solvent | benzene ether | C1=CC=CC=C1.CCOCC
solvent | water | O | H2O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2-methoxy-N-methyl-2-(2-pyridyl)thioacetamide | COC(C(=S)NC)C1=NC=CC=C1 | C9H12N2OS
